US07572820B2
A. 3-Bromo-4-(trifluoromethyl)-1H-indole-5-carbonitrile
To an ice-cold solution of 4-(trifluoromethyl)-1H-indole-5-carbonitrile (0.047 g, 0.22 mmol) in DMF (2 mL), under N2, was added a solution of NBS (0.043 g, 0.24 mmol) in DMF (0.5 mL). The mixture was stirred in the ice bath for 30 min and then at rt for 1 h. The mixture was partitioned between Et2O and an aqueous solution of Na2S2O3. The organic phase was washed with water and sat'd brine, dried (Na2SO4) and concentrated in vacuo. The residue was purified by radial chromatography (5-50% EtOAc-hexanes gradient) to afford the title compound: 1H NMR (400 MHz, CDCl3+few drops of CD3OD) δ 11.52 (bs, 1H), 7.61 (d, J=8.5 Hz, 1H), 7.48-7.45 (m, 2H).

reactant | 4-(trifluoromethyl)-1H-indole-5-carbonitrile | 0.22 mmol, 0.047 g | FC(C1=C2C=CNC2=CC=C1C#N)(F)F | C10H5F3N2
reactant | NBS | 0.24 mmol, 0.043 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | 3-Bromo-4-(trifluoromethyl)-1H-indole-5-carbonitrile | BrC1=CNC2=CC=C(C(=C12)C(F)(F)F)C#N | C10H4BrF3N2
